US07674912B2
4-Nitro-3-fluoro benzoic acid (535 mmol) was dissolved in toluene (500 mL) and tetrahydrofuran (THF) (75 mL). SOCl2 (930 mmol) was added and the mixture was heated at 65° C. for 5 h. The reaction mixture was cooled and the solvent removed by evaporation. The residue was re-dissolved in 1,2-dichloroethane. This solution was added dropwise to a suspension of 2-aminothiazole (480 mmol) and DIPEA (370 mmol) in 1,2-dichloroethane (1 L) with mechanical stirring, while the temperature was kept at 45° C. Upon complete addition the reaction mixture was heated at 60° C. for 1.5 h, then allowed to cool to room temperature and stirred over night. The reaction mixture was filtered, the solids were washed with 1,2-dichloroethane and dried in vacuo to give 4-nitro-3-fluoro-N-thiazol-2-yl-benzamide.

reactant | 4-Nitro-3-fluoro benzoic acid | 535 mmol | [N+](=O)([O-])C1=C(C=C(C(=O)O)C=C1)F | C7H4FNO4
reactant | SOCl2 | 930 mmol | O=S(Cl)Cl | Cl2OS
reactant | 2-aminothiazole | 480 mmol | NC=1SC=CN1 | C3H4N2S
reactant | DIPEA | 370 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | 1,2-dichloroethane | 1 L | ClCCCl | C2H4Cl2
product | 4-nitro-3-fluoro-N-thiazol-2-yl-benzamide | Yield: 35% | [N+](=O)([O-])C1=C(C=C(C(=O)NC=2SC=CN2)C=C1)F | C10H6FN3O3S
